US04460403
2,3-Dicyano-5-chloro-6-chloro-6-(m-fluorophenyl)pyrazine (1.00 g; 0.0039 mole) was dissolved in 30 ml of toluene. The solution was cooled to -5° C., and 0.65 g of a 70% aqueous solution of ethylamine was added dropwise. The mixture was stirred at -5° to 0° C. for 30 minutes. The reaction mixture was worked up in the same way as in Example 13, and recrystallized from ethanol to afford 0.63 g (yield 61%) of 2,3-dicyano-5-ethylamino-6-(m-fluorophenyl)pyrazine.

reactant | 2,3-Dicyano-5-chloro-6-chloro-6-(m-fluorophenyl)pyrazine | 0.0039 mole, 1.00 g | C(#N)C=1NC(C(=NC1C#N)Cl)(C1=CC(=CC=C1)F)Cl | C12H5Cl2FN4
reactant | ethylamine | C(C)N | C2H7N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dicyano-5-ethylamino-6-(m-fluorophenyl)pyrazine | 0.63 g, yield 61% | C(#N)C1=NC(=C(N=C1C#N)NCC)C1=CC(=CC=C1)F | C14H10FN5
